US04182758
A mixture of 3-(N-hydroxyamino)propylphosphonic acid (1.64 g), bis(trimethylsilyl)acetamide (10 g) and dichloromethane (30 ml) was stirred at ambient temperature for 3 hours and cooled to 0°-5° C. To the mixture was added methylisothiocyanate (800 mg) under ice-cooling. The reaction mixture was stirred at the same temperature for an hour and concentrated under reduced pressure to give a residue. To this residue was added water (50 ml) and stirred at ambient temperature for 30 minutes. After the remaining dichloromethane was removed by evaporation under reduced pressure, an additional 50 ml of water was added. The aqueous solution was subjected to a column chromatography using activated charcoal. The column was washed with water (650 ml) and then the object compound was eluted with 70% aqueous acetone. The eluate was concentrated under reduced pressure to give crystals, which were separated by filtration, washed with ethanol and dried to give crystalline 3-[N-hydroxy-N-{(N-methyl)thiocarbamoyl}amino]propylphosphonic acid (320 mg). Further, the ethanol washing was concentrated under reduced pressure to give a residue which was pulverized to give the same object compound (450 mg). Mp 190°-194° C. (dec.).

reactant | 3-(N-hydroxyamino)propylphosphonic acid | 1.64 g | ONCCCP(O)(O)=O | C3H10NO4P
reactant | bis(trimethylsilyl)acetamide | 10 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
reactant | methylisothiocyanate | 800 mg | CN=C=S | C2H3NS
solvent | water | 50 ml | O | H2O
product | 3-[N-hydroxy-N-{(N-methyl)thiocarbamoyl}amino]propylphosphonic acid | 320 mg | ON(C(NC)=S)CCCP(O)(O)=O | C5H13N2O4PS
